US06908913B2
b) 7-(Thiophen-2-yl)carbonyl-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole
The title compound (923 mg) was prepared in substantially the same manner as in step c) of Synthesis Example 1, except that 550 mg of 7-(thiophen-2-yl)carbonylimidazo[5,1-b]thiazole, 0.701 ml of tri-n-butylstannyl chloride, and 3.6 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were used as the starting materials.

reactant | 7-(thiophen-2-yl)carbonylimidazo[5,1-b]thiazole | 550 mg | S1C(=CC=C1)C(=O)C=1N=CN2C1SC=C2 | C10H6N2OS2
reactant | tri-n-butylstannyl chloride | 0.701 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
product | 7-(Thiophen-2-yl)carbonyl-2-(tri-n-butylstannyl)-imidazo[5,1-b]thiazole | 923 mg | S1C(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H5N2OS2.3C4H9.Sn/c13-9(7-2-1-4-14-7)8-10-12(6-11-8)3-5-15-10;3*1-3-4-2;/h1-4,6H;3*1,3-4H2,2H3;
